US08119627B2
A solution of 1-{4-[2-(4-chloro-phenylsulfanyl)-phenylamino]-piperidin-1-yl}-ethanone (AMR01098, STX1832, 140 mg, 0.388 mmol) was treated with m-chloroperbenzoic acid (77%, 104.33 mg, 0.466 mmol) and stirred for 2 h, keeping the temperature between −30 and −10° C. The reaction mixture was quenched with saturated NaHCO3 solution. The aqueous layer was washed with DCM (2×20 mL), and the combined organic layers were dried (MgSO4), filtered and evaporated to dryness. Column chromatography on silica gel of the crude product using DCM/MeOH 95:5 as eluent gave 1-{4-[2-(4-chloro-benzenesulfinyl)-phenylamino]-piperidin-1-yl}-ethanone (119 mg, 81%) as an oil. LC/MS (APCI) tr=4.53 min, m/z 379.28 (39), 377.26 (M++H, 100). HPLC tr=2.38 min (98.44%) 1H NMR (270 MHz, CDCl3) δ 1.12 (1H, m, ½CH2), 1.45 (1H, m, ½CH2), 1.62 (1H, m, ½CH2), 1.95 (2H, m, CH2), 2.04, 2.07 (3H, 2s, CH3), 2.94-4.00 (5H, m, CH and 2CH2), 6.20, 6.28 (1H, 2d, J=6.9 and 7.4 Hz, NH), 4.20 (1H, m), 6.60 (1H, d, J=8.4 Hz, ArH), 6.70 (1H, m, ArH) and 7.27-7.48 (6H, m, ArH). 13C NMR (270 MHz, CDCl3) δ 21.58 (CH3), 30.89, 31.17, 31.28, 31.83, 39.23, 39.46, 43.80, 44.44 (CH2), 47.77, 48.18 (CH), 112.17, 112.44, 115.67, 115.73, 122.13, 122.58, 126.13, 126.25, 128.97, 129.04, 129.53, 129.70, 133.88, 133.93, 136.39, 136.61, 142.28, 147.47, 147.56 (ArC), and 168.96 (C═O).

reactant | 1-{4-[2-(4-chloro-phenylsulfanyl)-phenylamino]-piperidin-1-yl}-ethanone | ClC1=CC=C(C=C1)SC1=C(C=CC=C1)NC1CCN(CC1)C(C)=O | C19H21ClN2OS
reactant | m-chloroperbenzoic acid | 0.466 mmol, 104.33 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
product | 1-{4-[2-(4-chloro-benzenesulfinyl)-phenylamino]-piperidin-1-yl}-ethanone | 119 mg, 81% | ClC1=CC=C(C=C1)S(=O)C1=C(C=CC=C1)NC1CCN(CC1)C(C)=O | C19H21ClN2O2S
